US05919803
[2-(1-Propoxy)-5-(5-trifluoromethyl-tetrazol-1-yl)-benzyl]-([2S,3S]-2-phenylpiperidin-3-yl)amine dihydrochloride
From 3{tert-Butoxycarbonyl-[2-(1-propoxy)-5-(5-trifluoromethyl-tetrazol-1-yl)-benzyl]-amino}-[2S,3S]-2-phenylpiperidine-1-carboxylic acid tert-butyl ester (268 mg, 0.4 mmol) using 4M-hydrogen chloride in dioxan (2 ml) to give the title compound as a white solid (93 mg). Found C, 51.04; H, 5.52; N, 15.24; C23H27F3N6O.2HCl.0.4H2O (540.64) requires C, 51.10; H, 5.56; N, 15.54%. Mass spectrum (thermospray +ve) m/e 461 (MH+).

reactant | 3{tert-Butoxycarbonyl-[2-(1-propoxy)-5-(5-trifluoromethyl-tetrazol-1-yl)-benzyl]-amino}-[2S,3S]-2-phenylpiperidine-1-carboxylic acid tert-butyl ester | 0.4 mmol, 268 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CCC1)N(CC1=C(C=CC(=C1)N1N=NN=C1C(F)(F)F)OCCC)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C33H43F3N6O5
reactant | hydrogen chloride | Cl | ClH
solvent | dioxan | 2 ml | O1CCOCC1 | C4H8O2
product | [2-(1-Propoxy)-5-(5-trifluoromethyl-tetrazol-1-yl)-benzyl]-([2S,3S]-2-phenylpiperidin-3-yl)amine dihydrochloride | 93 mg | Cl.Cl.C(CC)OC1=C(CN[C@@H]2[C@@H](NCCC2)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1C(F)(F)F | InChI=1S/C23H27F3N6O.2ClH/c1-2-13-33-20-11-10-18(32-22(23(24,25)26)29-30-31-32)14-17(20)15-28-19-9-6-12-27-21(19)16-7-4-3-5-8-16;;/h3-5,7-8,10-11,14,19,21,27-28H,2,6,9,12-13,15H2,1H3;2*1H/t19-,21-;;/m0../s1
